US09359367B2
Step 3: ethyl 6-((1S,3R)-3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopentanecarboxamido)spiro[2.5]oct-5-ene-5-carboxylate
To a solution of (S)-ethyl 6-(3-oxocyclopentanecarboxamido)spiro[2.5]oct-5-ene-5-carboxylate (0.7 g, 2.23 mmol) in 1,2-dichloroethane (10 ml) were added 1-(4-fluorophenyl)piperazine (0.43 g, 2.40 mmol), glacial acetic acid (0.14 g, 2.40 mmol) and sodium triacetoxy borohydride (0.7 g, 3.44 mmol). The mixture was stirred at RT for 24 h before removal of the solvent. The residue was treated with saturated sodium bicarbonate, extracted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford the crude residue which was purified by column chromatography over silica gel using ethyl acetate in hexane as eluents to obtain a diastereomeric mixture (7:3) of title compound (0.9 g, 84%).

reactant | (S)-ethyl 6-(3-oxocyclopentanecarboxamido)spiro[2.5]oct-5-ene-5-carboxylate | 2.23 mmol, 0.7 g | O=C1C[C@H](CC1)C(=O)NC1=C(CC2(CC2)CC1)C(=O)OCC | C17H23NO4
reactant | 1-(4-fluorophenyl)piperazine | 2.40 mmol, 0.43 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | acetic acid | 2.40 mmol, 0.14 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 3.44 mmol, 0.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | ethyl 6-((1S,3R)-3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopentanecarboxamido)spiro[2.5]oct-5-ene-5-carboxylate | 0.9 g, 84% | FC1=CC=C(C=C1)N1CCN(CC1)[C@H]1C[C@H](CC1)C(=O)NC1=C(CC2(CC2)CC1)C(=O)OCC | C27H36FN3O3
